US20010016659A1
To a sample of N-(4-chloro-3-((trifluoromethyl)phenyl)-N′-(4-(3-carbomethoxyphenyl) carboxyaminophenyl) urea (0.17 g, 0.34 mmol) was added methylamine (2 M in THF; 1 mL, 1.7 mmol) and the resulting mixture was stirred at room temp. overnight, then concentrated under reduced pressure to give N-(4-chloro-3-((trifluoromethyl)phenyl)-N′-(4-(3-methylcarbamoylphenyl) carboxyaminophenyl) urea as a white solid: mp 247; TLC (100% EtOAc) Rf 0.35.

reactant | 4-chloro-3-((trifluoromethyl)phenyl)-N′-(4-(3-carbomethoxyphenyl) carboxyaminophenyl) urea | 0.34 mmol, 0.17 g | ClC1(CC(=C(C=C1)N(C(N)=O)C1=C(C=CC=C1)C(F)(F)F)NC(=O)O)C1=CC(=CC=C1)C(=O)OC | C23H19ClF3N3O5
reactant | methylamine | 1.7 mmol, 2 M, 1 mL | CN | CH5N
product | 4-chloro-3-((trifluoromethyl)phenyl)-N′-(4-(3-methylcarbamoylphenyl) carboxyaminophenyl) urea | ClC1(CC(=C(C=C1)N(C(N)=O)C1=C(C=CC=C1)C(F)(F)F)NC(=O)O)C1=CC(=CC=C1)C(NC)=O | C23H20ClF3N4O4
